Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Hemodialysis

 
History of Present Illness:
Mr. ___ is a ___ year old man with h/o DM2, HTN, ESRD on HD 
TThS, atrial tachycardia, substance abuse (cocaine), who was 
admitted with recurrent chest pain. The patient was discharged 
one week ago after a two day hospitalization for chest pain, 
which is typically associated with cocaine use. He reports that 
he has felt unwell since his previous discharge. He reported 
decreased appetite and poor oral intake, chills, cough 
productive of green sputum, shortness of breath associated with 
coughing, nausea, vomiting (nonbloody, nonbilious), and 
dizziness. He returned to the ED on the day of admission for 
these symptoms, as well as recurrent lef-sided chest pain and 
left shoulder pain. He described the pain as ___ and constant 
with radiation down his left arm. He reported that he had not 
used cocaine in >1 week.  
.  
In the ED initial VS were 100.4 95 142/79 18 100%RA. The patient 
was given Morphine and Dilaudid for pain control. CK was flat, 
Trop was at baseline. No EKG changes were noted from prior EKGs. 
Crackles were noted on pulmonary examination. A CXR was 
unchanged from prior with small pleural effusion at the right 
lung base. Patient was treated with Levaquin for presumed PNA, 
given the fevers and productive cough. Vitals on transfer were 
98.4 97 131/75 16 98%RA.  
 
Past Medical History:
- ESRD on HD ___ at ___, ___, 
___  
- Type 2 diabetes mellitus c/b peripheral neuropathy  
- CAD: On review of records, he had demand ischemia in ___ 
with no flow-limiting stenoses on cardiac cath. MIBI in ___ 
showed reversible defects inferior/lateral. Baseline troponin 
0.2-0.4. Cath in ___ - normal coronaries.  
- Chronic systolic CHF with EF 30% ___ TTE)  
- Atrial fibrillation/AFlutter s/p ablation ___ h/o atrial 
tachycardia s/p EPS ___ and ablation x 2. not on coumadin due 
to history of GIBs.  
- Hypertension  
- Dyslipidemia: ___ TC 101, LDL 54, HDL 29, ___ 112  
- History of GI bleeds: Duodenal, jejunal, and gastric AVMs s/p 
thermal therapy; diverticulosis throughout colon  
- Chronic pancreatitis  
- Possible Hepatitis C infection, HCV Ab + ___, but neg ___ 
 
- GERD  
- Gout  
- s/p arthroscopy with medial meniscectomy ___  
- Depression with multiple hospitalizations due to SI  
- Polysubstance abuse: crack cocaine, EtOH, tobacco  
- frequent bouts of chest pain following crack/cocaine use  
- Erectile dysfunction s/p inflatable penile prosthesis ___  
- H/o C diff in ___ 

 
Social History:
___
Family History:
Mother had ESRD on HD, died from MI at the age of ___. 4 Brothers 
and 2 sisters, nearly all with DM2.
 
Physical Exam:
VS: 97.7  97  126/70  18  93%RA
General: comfortable appearing, sitting on edge of bed
HEENT: eyes injected, no TM, no LAD
CV: tachycardic, irregular, normal S1,S2, no M/R/G
Resp: diffuse, mild crackles
Abd: S/NT/ND, BS+
Ext: 2+ pulses; holding left arm tight against body
 
Pertinent Results:
___ 11:00PM BLOOD  CK-MD-4 cTropnT-0.25*
___ 06:40AM BLOOD CK-MB-3 cTropnT-0.27*
___ 03:30PM BLOOD CK-MB-4 cTropnT-0.31*

___ 10:23PM BLOOD WBC-7.8# RBC-3.97* Hgb-11.9* Hct-35.9* 
MCV-91 MCH-30.1 MCHC-33.2 RDW-15.5 Plt ___
___ 05:58AM BLOOD WBC-6.7 RBC-3.95* Hgb-11.5* Hct-36.1* 
MCV-91 MCH-29.0 MCHC-31.8 RDW-15.3 Plt ___

___ 11:00PM BLOOD Glucose-290* UreaN-44* Creat-7.0* Na-132* 
K-4.5 Cl-91* HCO3-26 AnGap-20
___ 06:40AM BLOOD Glucose-173* UreaN-46* Creat-7.4* Na-135 
K-4.3 Cl-96 HCO3-27 AnGap-16
___ 05:58AM BLOOD Glucose-226* UreaN-22* Creat-4.7*# Na-133 
K-4.7 Cl-94* HCO3-29 AnGap-15

___ CXR: Stable mild cardiomegaly and small right effusion.

___ EKG: atrial tachycardia @ 91, RBBB, no ST-Twave changes 
as compared to prior EKG  

 
Brief Hospital Course:
___ year old male with DM2, ESRD on HD, systolic heart failure 
(EF 28%), hypertension, atrial tachycardia, and cocaine abuse 
who presents with chest pain, fever and cough. 
.  
1. Chest Pain: Patient has had multiple admissions in recent 
months for similar complaints. EKG consistent with prior. 
Troponins and CK-MB remained flat. Low suspicion for acute 
coronary syndrome. Pain may have been secondary to cough in the 
setting of a viral bronchitis versus musculoskeletal. Pain was 
controlled with Tramadol.  He was started on ASA 81 mg per day.
.  
2. Fever/Cough: Crackles on examination but no evidence of 
consolidation. CXR revealed stable right lower lobe effusion. 
Urinary Legionella antigen was negative. Patient received 
Levaquin once in the ED but this was not continued on the floor. 
Patient remained afebrile throughout his stay on the floor.  He 
was given medications for symptomatic relief, and encouraged to 
refrain from cocaine use.
.
3. ESRD: Renal consulted for dialysis during admission as 
patient was due. He received one HD session. Sevelamer, 
Cinacalcet, and Nephrocaps. Medications were renally dosed. 
.  
4. Atrial Tachycardia: Patient remained tachycardic to low 100s 
throughout admission. Amiodarone was continued at admission dose 
of 200 mg daily. Review of records revealed that patient was at 
one time on Diltiazem Extended Release 360 mg daily. Patient was 
only on 180 mg daily on admission. Given persistent tachycardia, 
patient was discharged on Diltiazem Extended Release 360 mg 
daily. 
.  
5. Systolic Heart Failure: Patient was euvolemic to hypovolemic 
on presentation. Lisinopril was continued. 
.  
6. Hypertension: Diltiazem and Lisinopril were continued as per 
above. Patient normotensive through admission. 
.  
7. Diabetes: Patient on Humalog ___ Units four times a day at 
home. Patient received Humalog insulin sliding scale during 
admission. 
.  
8. Depression:  Sertraline was continued during admission. 
 
Medications on Admission:
Albuterol ___ q4h prn  
Amiodarone 200mg PO daily  
Atorvastatin 20mg PO daily  
Diltiazem 180mg PO daily  
Gabapentin 100mg PO qhs  
Lisinopril 20mg PO daily  
Pantoprazole 40mg PO daily  
B Complex-VitaminC-Folic Acid 1mg PO daily  
Sevelamer 2400mg PO TID  
Cinacalcet 30mg PO daily  
Sertraline 50mg PO daily  
Mupirocin cream TID  
Senna 1 tab PO BID prn  
Humalog ___ Units QID
Diphenhydramine 25mg PO q4-6h prn x 2weeks  (from prior 
discharge summary of ___
Zofran 4mg PO BID prn  (from prior discharge summary of ___
Ibuprofen 400mg PO q8h prn  (from prior discharge summary of 
___
Camphor-Menthol lotion QID prn  (from prior discharge summary of 
___
Hydroxyzine 25mg PO TID  (from prior discharge summary of ___
 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for 
SOB/wheezing.  
2. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Diltiazem HCl 360 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO once a day.
Disp:*30 Capsule, Sustained Release(s)* Refills:*2*
5. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
6. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
8. Sevelamer HCl 400 mg Tablet Sig: Six (6) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
9. Nephrocaps 1 mg Capsule Sig: One (1) Capsule PO once a day.  
10. Cinacalcet 30 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Mupirocin Calcium 2 % Cream Sig: One (1) Appl Topical TID (3 
times a day).  
13. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*30 Tablet, Chewable(s)* Refills:*2*
14. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID PRN as needed 
for constipation.  
15. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1)  Topical PRN 
as needed for itching.  
16. Humalog 100 unit/mL Cartridge Sig: ___ Units Subcutaneous 
four times a day: Continue according to the sliding scale 
determined by your PCP.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Chest Pain

Secondary Diagnoses:
End-Stage Renal Disease
Atrial Tachycardia
Hypertension 
Diabetes (Insulin-Dependent)
Congestive Heart Failure (Systolic)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___:
You were admitted to the hospital with chest pain. Tests were 
performed to look for evidence of damage to your heart. These 
tests were negative. You were also due for dialysis during this 
hospitalization and received dialysis during your stay. 

** Please note that you were given Diltiazem Extended-Release 
180 mg daily during this admission. Looking through prior 
records it appears that you were on Diltiazem Extended-Release 
360 mg daily. Your heart rate was very high during this 
admission. You should start taking Diltiazem Extended-Release 
360 mg daily following your discharge. Make sure that you only 
take the 360 mg daily. **

Please keep all outpatient follow-up appointments. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___